US05110956
N,N-Diethyl-[{2-(6-ethyl-1,3-benzodioxol-5-yl)ethyl}thio] acetamide
2.1 g of the title compound was prepared from 2.0 g of [{2-(6-ethyl-1,3-benzodioxol-5-yl)ethyl}thio]acetic acid by using 2.7 g of diethylamine as a pale yellow oil according to the same procedure as that described in Example 32.

reactant | [{2-(6-ethyl-1,3-benzodioxol-5-yl)ethyl}thio]acetic acid | 2.0 g | C(C)C=1C(=CC2=C(OCO2)C1)CCSCC(=O)O | C13H16O4S
reactant | diethylamine | 2.7 g | C(C)NCC | C4H11N
product | N,N-Diethyl-[{2-(6-ethyl-1,3-benzodioxol-5-yl)ethyl}thio] acetamide | 2.1 g | C(C)N(C(CSCCC1=CC2=C(OCO2)C=C1CC)=O)CC | C17H25NO3S
